US08034814B2
4a) trans 1-(4-Isopropyl-cyclohexylamino)-4-[6-methoxy-(pyridin-3-yl)-methyl]-phthalazine
Under N2 atmosphere, in an ampoule 1.8 g (12.7 mMol) of trans 4-isopropyl-cyclohexylamine (preparation see Arzneim. Forsch. 1969, 19, 140) and 700 mg (2.4 mMol) of 1-chloro-4-[6-methoxy-pyridin-3-yl)methyl]phthalazine are heated during 14 h at 140° C. The suspension is dissolved by dilution with EtOAc, 1.5 ml of NH3 solution (25%) and water, and the aqueous phase is removed and extracted twice with EtOAc. The organic phases are washed with water and brine, dried (Na2SO4) and evaporated. Crystallization from EtOAc/hexane 1:1 results in the title compound: M.p. 124-125° C.; FAB-MS: (M+H)+=391; HPLC(Grad20-100) tRet12.4.

reactant | trans 4-isopropyl-cyclohexylamine | 12.7 mMol, 1.8 g | C(C)(C)[C@@H]1CC[C@H](CC1)N | C9H19N
reactant | phthalazine | C1=NN=CC2=CC=CC=C12 | C8H6N2
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | NH3 | 1.5 ml | N | H3N
solvent | water | O | H2O
product | trans 1-(4-Isopropyl-cyclohexylamino)-4-[6-methoxy-(pyridin-3-yl)-methyl]-phthalazine | C(C)(C)[C@@H]1CC[C@H](CC1)NC1=NN=C(C2=CC=CC=C12)CC=1C=NC(=CC1)OC | C24H30N4O
